US06617346B1
To a solution of 2,6-dihydroxybenzamide (2 g, 12.66 mmol) in dimethylformamide (100 mL) were added cesium carbonate (3.922 g, 12.03 mmol) and methyl iodide (756 μL, 12.03 mmol). The reaction mixture was stirred at room temperature for 36 h and was taken in 200 mL of ethyl acetate and diethyl ether (1:1 ratio). It was washed with water, brine and dried over anhydrous sodium sulfate. The solid was then filtered off, and the filtrate was concentrated in vacuo. Purification of the residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 25% ethyl acetate in hexanes yielded 2-hydroxy-6-methoxy-benzamide (1.4 g, 66%).

reactant | 2,6-dihydroxybenzamide | 12.66 mmol, 2 g | OC1=C(C(=O)N)C(=CC=C1)O | C7H7NO3
reactant | cesium carbonate | 12.03 mmol, 3.922 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 12.03 mmol, 756 μL | CI | CH3I
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-hydroxy-6-methoxy-benzamide | 1.4 g, 66% | OC1=C(C(=O)N)C(=CC=C1)OC | C8H9NO3
